US06235730B1
Acetanilide (6.0 g) and 3-bromopyridine (14.1 g) were used to make a reaction in the same manner as in 1) of Production Example 2. The subsequent purification by silica gel column chromatography (developing solvent, ethyl acetate:hexane:=1:1 to 2:1) produced N-(3-pyridyl)-acetanilide (9.52 g, quantitative) as a pale red solid.

reactant | Acetanilide | 6.0 g | C(C)(=O)NC1=CC=CC=C1 | C8H9NO
reactant | 3-bromopyridine | 14.1 g | BrC=1C=NC=CC1 | C5H4BrN
product | N-(3-pyridyl)-acetanilide | 9.52 g | N1=CC(=CC=C1)N(C1=CC=CC=C1)C(C)=O | C13H12N2O
